US08729263B2
To a solution of (3aR,6aS)-tert-butyl 5-(6-(2-hydroxy-4-(1H-pyrazol-4-yl)phenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (75 mg, 0.167 mmol) in 1 mL of dioxane was added 4N HCl in dioxane (1 mL, 4.00 mmol). The reaction mixture was stirred at RT overnight, and then basified with 2N NH3 in MeOH to form a precipitate which was separated via centrifugation to provide a dark solid, 2-(6-((3aR,6aS)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin 3-yl)-5-(1H-pyrazol-4-yl)phenol (50 mg, 0.136 mmol, 82% yield) MS (M+1)=349.1.

reactant | (3aR,6aS)-tert-butyl 5-(6-(2-hydroxy-4-(1H-pyrazol-4-yl)phenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.167 mmol, 75 mg | OC1=C(C=CC(=C1)C=1C=NNC1)C1=CC=C(N=N1)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C | C24H28N6O3
reactant | HCl | 4N | Cl | ClH
reactant | NH3 | 2N | N | H3N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
solvent | dioxane | 4.00 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | 2-(6-((3aR,6aS)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin 3-yl)-5-(1H-pyrazol-4-yl)phenol | 0.136 mmol, 50 mg, 82% yield | C1N(C[C@@H]2[C@H]1CNC2)C2=CC=C(N=N2)C2=C(C=C(C=C2)C=2C=NNC2)O | C19H20N6O
